US06191245B1
Preparation of Dimethylsilyl(indenyl)(t-butylamine).
Lithium indenide (1.73 g, 0.014 moles) in THF (50 mL) was added drop wise to a solution of dimethylsilyl(t-butylamino)chloride (3.53 g, 0.021 moles) in THF (75 mL). This mixture was allowed to stir for 6.5 hrs. And the volatile materials were removed. The residue was extracted and filtered using hexane. Removal of the hexane resulted in the isolation of the desired product as an oil (2.53 g, 74.3% yield).

reactant | Lithium indenide | 0.014 moles, 1.73 g | [CH-]1C=CC2=CC=CC=C12.[Li+]
reactant | dimethylsilyl(t-butylamino)chloride | 0.021 moles, 3.53 g | C[SiH](C)N(C(C)(C)C)Cl | C6H16ClNSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Dimethylsilyl(indenyl)(t-butylamine) | 2.53 g, 74.3% yield | C[SiH](C)N(C(C)(C)C)C1C=CC2=CC=CC=C12 | C15H23NSi
